* D:\Daten\GitHub\pro4e\Workspace\Julian Jeisy\Recherche\Mikrophonverstärker\mikrophonverstärker.wxsch
*#SIMETRIX
X1 R3_N R7_P VCC 0 X1_out LMV796 pinnames: inp inn vsp vsn out
V1 V1_P 0 3.3
X2 R3_N C1_N VCC 0 X2_out LMV796 pinnames: inp inn vsp vsn out
V2 VCC 0 5
R1 VCC R1_N 5.6k
V3 VIN 0 100u AC 1 0 Sin(0 360u 1k 0 0)
R2 X2_out C1_N 68k
R3 VCC R3_N 100k
R4 R3_N 0 100k
R5 VOUT 0 100k
R6 V1_P VOUT 100k
R7 R7_P X2_out 10k
R9 X1_out R7_P 33k
I1 R1_N 0 16u AC 1 0 Sin(0 160n 1k 0 0)
C1 VIN C1_N 2.2u   
C2 X2_out C1_N 33p   
C3 R3_N 0 2.2u   
C4 VOUT X1_out 2.2u   
C5 X1_out R7_P 100p   
.GRAPH VOUT axisType="owngrid" persistence=-1 curveLabel="VOUT" analysis="tran|ac|dc" xLog="lin" yLog="lin" yMin=0 yMax=3.5  nowarn=true disabled=false PROBEREF=Probe1  
.GRAPH VIN curveLabel= VIN nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false PROBEREF=Probe2  
.GRAPH X2_out axisType="owngrid" persistence=-1 curveLabel="VMID" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.tran 0 102m 100m 100u
*.ac dec 100 1 500k
*.tf freq dec 25 1k 1000000 V=VOUT VN=VIN

